US05691323
A stirred solution of 0.52 g of trans-1,3-dihydro-1-{4-[4-(tert-butyloxycarbonyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one in 15 mL of 1N HCl was heated to reflux for 1 h, cooled, basified to pH 10 with 6N NaOH and extracted 2×50 mL of CHCl3. The combined extracts were dried over MgSO4 and concentrated under reduced pressure. After drying overnight under vacuum, there was obtained 0.28 g of trans-1,3-dihydro-1-{4-(1-piperazinyl)-1-cyclohexyl}-2H-benzimidazol-2-one as a white solid: 1H NMR (400 MHz, CDCl3) 7.14 (m, 1H), 7.11 (m, 1H), 7.07 (m, 2H), 4.28 (m, 1H), 2.61 (s, 4H), 2.45 (t, 1H), 2.26 (q, 2H), 2.10 (d, J=12.2, 2H), 2.0 (d, J=10.8, 2H), 1.53 (q, 2H).

reactant | trans-1,3-dihydro-1-{4-[4-(tert-butyloxycarbonyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one | 0.52 g | C(C)(C)(C)OC(=O)N1CCN(CC1)[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C22H32N4O3
reactant | NaOH | 6N | [OH-].[Na+]
solvent | HCl | 1N, 15 mL | Cl | ClH
product | trans-1,3-dihydro-1-{4-(1-piperazinyl)-1-cyclohexyl}-2H-benzimidazol-2-one | 0.28 g | N1(CCNCC1)[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C17H24N4O
